US08383644B2
(S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-7-(3-hydroxy-benzoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid
(S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride and excess acetic acid 3-chlorocarbonyl-phenyl ester were reacted in a biphasic mixture of EtOAc and saturated aqueous NaHCO3. The resulting compound was hydrolyzed according to General Procedure B to give the title compound (15 mg). LCMS (m/z) 813.

reactant | (S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3)=O
reactant | acetic acid 3-chlorocarbonyl-phenyl ester | ClC(=O)C=1C=C(C=CC1)OC(C)=O | C9H7ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-7-(3-hydroxy-benzoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid | 15 mg | C1(CCCCC1)COC1=CC=C(C=C1)[C@@H]1OC=2C(=CC=3C[C@H](N(CC3C2)C(C2=CC(=CC=C2)O)=O)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)OC2=C(C(=NC=C2)C)C)OC1 | C48H49N3O9
